US04846882
By the method of Example 2, Step D, 7.18 g (0.0308 mole) of ethyl 2-bromo-4-fluoro benzyl ether, 2 ml of fuming nitric acid, and 18 ml of concentrated sulfuric acid were reacted in 20 ml of 1,2-dichloroethane, yielding 3.1 g of ethyl 2-bromo-4-fluoro-5-nitrobenzyl ether.

reactant | ethyl 2-bromo-4-fluoro benzyl ether | 0.0308 mole, 7.18 g | BrC1=C(COCC)C=CC(=C1)F | C9H10BrFO
reactant | nitric acid | 2 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 18 ml | S(O)(O)(=O)=O | H2O4S
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | ethyl 2-bromo-4-fluoro-5-nitrobenzyl ether | 3.1 g | BrC1=C(COCC)C=C(C(=C1)F)[N+](=O)[O-] | C9H9BrFNO3
